US05998612
A suspension of (3S,4R)-3-[(R)-1-hydroxyethyl]-4-[3-benzyloxycarbonyl-2-oxo-3-diazopropyl] azetidin-2-one (50 mg, 0.15 mmol) and rhodium (II) acetate (0.1 mg) in dry benzene (3 mL) was deoxygenated by bubbling through nitrogen for 10 minutes. The mixture was then heated to 78° for 1 hour. During heating the solid starting material gradually went into solution. The mixture was then cooled, filtered to remove the catalyst, and the filtrate was concentrated in vacuo to yield (5R, 6S) benzyl 6-[(R)-1-hydroxyethyl]-1-azabicyclo[3.2.0]heptan-3,7-dione-2-carboxylate, 45 mg. (98%) as a colorless oil.

reactant | (3S,4R)-3-[(R)-1-hydroxyethyl]-4-[3-benzyloxycarbonyl-2-oxo-3-diazopropyl] azetidin-2-one | 0.15 mmol, 50 mg | O[C@H](C)[C@H]1C(N[C@@H]1CC(C(=[N+]=[N-])C(=O)OCC1=CC=CC=C1)=O)=O | C16H17N3O5
solvent | benzene | 3 mL | C1=CC=CC=C1 | C6H6
catalyst | rhodium (II) acetate | 0.1 mg | C(C)(=O)[O-].[Rh+2].C(C)(=O)[O-]
product | (5R, 6S) benzyl 6-[(R)-1-hydroxyethyl]-1-azabicyclo[3.2.0]heptan-3,7-dione-2-carboxylate | O[C@H](C)[C@@H]1[C@H]2CC(C(N2C1=O)C(=O)OCC1=CC=CC=C1)=O | C16H17NO5
